US04230850
8-Methoxy-4-(2'-morpholinoethoxy)-3-phenyl-coumarin
This compound is prepared according to the method of Example 8 from 45.6 g. (0.17 mol) of 3-phenyl-4-hydroxy-8-methoxy-coumarin and 30.5 g. (0.24 mol) of 2-morpholino-1-chlorethane. After recrystallisation from isopropanol, 48 g. are isolated; M.P. 90°-91° C. Yield 74% (theoretical yield 65.0 g.).

reactant | 3-phenyl-4-hydroxy-8-methoxy-coumarin | 0.17 mol | C1(=CC=CC=C1)C=1C(OC2=C(C=CC=C2C1O)OC)=O | C16H12O4
reactant | 2-morpholino-1-chlorethane | 0.24 mol | O1CCN(CC1)CCCl | C6H12ClNO
product | 8-Methoxy-4-(2'-morpholinoethoxy)-3-phenyl-coumarin | Yield 74% | COC=1C=CC=C2C(=C(C(OC12)=O)C1=CC=CC=C1)OCCN1CCOCC1 | C22H23NO5
